US07790733B2
e) 1-(2-Amino-5-chloro-3-methoxy-6-methyl-phenyl)-ethanol
1N aqueous potassium hydroxide solution (13.5 ml, 13.5 mmol) was added to 6-chloro-8-methoxy-4,5-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (0.66 g, 2.7 mmol) dissolved in methanol (13.5 ml). The reaction was heated 6 hours to reflux. A solid precipitated. After cooling the reaction was diluted with water, and the title compound was filtered off, washed with water and dried to yield an off-white solid (512 mg, 88%).

reactant | potassium hydroxide | 13.5 mmol, 1N, 13.5 ml | [OH-].[K+]
reactant | 6-chloro-8-methoxy-4,5-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 2.7 mmol, 0.66 g | ClC1=C(C2=C(NC(OC2C)=O)C(=C1)OC)C | C11H12ClNO3
solvent | methanol | 13.5 ml | CO | CH4O
product | 1-(2-Amino-5-chloro-3-methoxy-6-methyl-phenyl)-ethanol | 512 mg, 88% | NC1=C(C(=C(C=C1OC)Cl)C)C(C)O | C10H14ClNO2
